US20010053785A1
(2S)-2-[4′-(2-Benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-phenyl-butyric acid
The title compound was prepared from 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol, and (R)-(−)-2-hydroxy-4-phenylbutyric acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 85-87° C.; MS m/e 709 (M−H)+;

reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O)Br | C27H18Br2OS
reactant | (R)-(−)-2-hydroxy-4-phenylbutyric acid methyl ester | COC([C@@H](CCC1=CC=CC=C1)O)=O | C11H14O3
product | (2S)-2-[4′-(2-Benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-phenyl-butyric acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O[C@H](C(=O)O)CCC2=CC=CC=C2)Br | C37H28Br2O3S
